US05554756
A solution of 8.86 g of [N-(benzyloxycarbonyl)-L-phenylalanyl]methyl bromide 6.71 g of N2 -L-prolyl-N1 -isobutyl-L-isoleucinamide and 2.60 g of triethylamine in 400 ml of dichloromethane was stirred at room temperature overnight. The solvent was removed by evaporation and the crude product was chromatographed on silica gel using ethyl acetate for the elution. The resulting product was triturated with a mixture of petroleum ether (b.p. 40°-60° C.) and ethyl acetate to give 8.70 g of N2 [N-[[N-(benzyloxycarbonyl)-L-phenylalanyl]methyl]-L-prolyl]-N1 -isobutyl-L-isoleucinamide as an off-white solid of m.p. 80°-81° C.

reactant | [N-(benzyloxycarbonyl)-L-phenylalanyl]methyl bromide | 8.86 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)CBr | C18H18BrNO3
reactant | N2 L-prolyl-N1 -isobutyl-L-isoleucinamide | N#N.N1[C@H](C(=O)N[C@@H]([C@@H](C)CC)C(=O)NCC(C)C)CCC1
reactant | triethylamine | 2.60 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | N2 [N-[[N-(benzyloxycarbonyl)-L-phenylalanyl]methyl]-L-prolyl]-N1 -isobutyl-L-isoleucinamide | 8.70 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)CN1[C@H](C(=O)N[C@@H]([C@@H](C)CC)C(=O)NCC(C)C)CCC1 | C33H46N4O5
